* subcircuits for un/packaged devices with special extensions

* BJT with BE breakdown
.SUBCKT PNP_BEBR 1 2 3 PARAMS: QMODEL={1} DMODEL={2}
Q1    1 2 3 {QMODEL}
DBEBR 3 2   {DMODEL}
.ENDS PNP_BEBR

* BJT in SOT-23 with BE breakdown
.SUBCKT PNP_SOT23_BEBR 1 2 3 PARAMS: QMODEL={1} DMODEL={2}
* Philips
X1 1 2 3 PNP_SOT23_BEBR_PHI QMODEL={QMODEL} DMODEL={DMODEL}
* Infineon
*X1 1 2 3 PNP_SOT23_BEBR_INF QMODEL={QMODEL} DMODEL={DMODEL}
.ENDS PNP_SOT23_BEBR

* Philips
.SUBCKT PNP_SOT23_BEBR_PHI 1 2 3 PARAMS: QMODEL={1} DMODEL={2}
LB     2 22             1.25n
LE     3 33             1.12n
LC     1 11             0.23n
CBCG  22 11             62f
CBEG  22 33             45f
CCEG  11 33             62f
Q1    11 22 33 {QMODEL}
DBEBR 33 22    {DMODEL}
.ENDS PNP_SOT23_BEBR_PHI

* Infineon
.SUBCKT PNP_SOT23_BEBR_INF 1 2 3 PARAMS: QMODEL={1} DMODEL={2}
LB    4 5             0.500n
LE    8 7             0.600n
LC    1 6             0.350n
L1    2 4             0.400n
L2    3 8             0.400n
CBCG  4 6            70.00f
CBEG  4 8             0.150p
CCEG  6 8            15.00f
Q1    6 5 7 {QMODEL}
DBEBR 7 5   {DMODEL}
.ENDS PNP_SOT23_BEBR_INF

